US08076491B2
4-methoxybenzaldehyde (5 g, 35 mmol) and benzylamine (3.8 g, 35 mmol) were added to sodium triacetoxyborohydride (10.4 g, 49 mmol) in dichloroethane (125 mL). The reaction was stirred at ambient temperature 2 hours, then concentrated. The mixture was diluted with dichloromethane (200 mL), washed with saturated aqueous sodium hydrogen carbonate (200 mL), brine (200 mL) and dried over magnesium sulfate. The crude amine was concentrated and purified by silica gel chromatography (70% ethyl acetate in hexanes) To afford N-benzyl-1-(4-methoxyphenyl)methanamine as an oil. 1H NMR (400 MHz, DMSO-d6): δ, ppm: 3.59 (s, 2H), 3.64 (s, 2H), 3.71 (s, 3H), 6.86 (d, J=8.8 Hz, 2H), 7.28 (m, 7H).

reactant | 4-methoxybenzaldehyde | 35 mmol, 5 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | benzylamine | 35 mmol, 3.8 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 49 mmol, 10.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 125 mL | ClC(C)Cl | C2H4Cl2
product | N-benzyl-1-(4-methoxyphenyl)methanamine | C(C1=CC=CC=C1)NCC1=CC=C(C=C1)OC | C15H17NO
